US06593333B1
Potassium carbonate (4.51 g) was added to 7-hydroxy-6-methoxy-3-pivaloyloxymethyl-3,4-dihydroquinazolin4-one (2.0 g) in dimethylformamide (50 ml) followed by 3-morpholinopropyl chloride (1.3 g) and the reaction was stirred at 100° C. for 6 hours. After cooling the solid was removed by filtration and the filtrate was evaporated and was purified by eluting through a silica column with 10% methanol in methylene chloride to yield 6-methoxy-7-(3-morpholinopropoxy)-3-pivaloyloxymethyl-3,4-dihydroquinazolin-4-one as a solid (1.85 g, 65%); NMR: 1.1 (s, 9H), 1.9 (m, 2H), 2.4 (broad m, 6H), 3.55 (m, 4H), 3.88 (s, 3H), 4.16 (m, 2H), 5.89 (s, 2H), 7.13 (s, 1H), 7.47 (s, 1H), 8.32 (s, 1H); m/s: M+H+ 434.

reactant | Potassium carbonate | 4.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-hydroxy-6-methoxy-3-pivaloyloxymethyl-3,4-dihydroquinazolin4-one | 2.0 g | OC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C15H18N2O5
reactant | 3-morpholinopropyl chloride | 1.3 g | O1CCN(CC1)CCCCl | C7H14ClNO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-methoxy-7-(3-morpholinopropoxy)-3-pivaloyloxymethyl-3,4-dihydroquinazolin-4-one | 1.85 g, 65% | COC=1C=C2C(N(C=NC2=CC1OCCCN1CCOCC1)COC(C(C)(C)C)=O)=O | C22H31N3O6
